US06762180B1
(9) 4[-(2-dimethylamino-ethyl)-N-(2-methoxy-benzoyl)-amino]-nitrobenzene
Prepared from 4-(2-dimethylamino-ethylamino)-nitrobenzene and 2-methoxy-benzoyl chloride

reactant | 4-(2-dimethylamino-ethylamino)-nitrobenzene | CN(CCNC1=CC=C(C=C1)[N+](=O)[O-])C | C10H15N3O2
reactant | 2-methoxy-benzoyl chloride | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
product | 4[-(2-dimethylamino-ethyl)-N-(2-methoxy-benzoyl)-amino]-nitrobenzene | CN(CCN(C(C1=C(C=CC=C1)OC)=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C18H21N3O4
